US05604237
2-Chloro-N-(4-nitrophenyl)acetamide
Chloroacetyl chloride (11 ml) was added dropwise to a stirred mixture of potassium carbonate (18.8 g) and 4-nitroaniline (15 g) in DMF (100 ml) maintained at 0°. The mixture was then allowed to stand overnight at room temperature and poured into crushed ice. A yellow solid was recovered and crystallised from toluene containing isopropyl alcohol (10%) to give the title compound (10 g), MP: 180°.

reactant | Chloroacetyl chloride | 11 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | potassium carbonate | 18.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitroaniline | 15 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-Chloro-N-(4-nitrophenyl)acetamide | 10 g | ClCC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C8H7ClN2O3
